US06982348B2
7) (1RS,2SR)-2-amino-3-[4-(1,1-difluoroethyl)phenyl]-1-(4-fluorophenyl)propan-1-ol
(4RS,5SR)-4-[4-(1,1-Difluoroethyl)benzyl]-5-(4-fluorophenyl)-1,3-oxazolidin-2-one (1.557 g, 4.643 mmol) and sodium hydroxide (0.74 g, 18.6 mmol) were heated under reflux in ethanol (20 ml) and water (1 ml) for 6 hrs. The reaction solution was diluted with water and extracted twice with ethyl acetate. The collected organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure. The residue was purified by silica gel (APS type) column chromatography (hexane/ethyl acetate=3/1-ethyl acetate) to give the objective substance.

reactant | (4RS,5SR)-4-[4-(1,1-Difluoroethyl)benzyl]-5-(4-fluorophenyl)-1,3-oxazolidin-2-one | 4.643 mmol, 1.557 g | FC(C)(F)C1=CC=C(CC2NC(OC2C2=CC=C(C=C2)F)=O)C=C1 | C18H16F3NO2
reactant | sodium hydroxide | 18.6 mmol, 0.74 g | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | O | H2O
solvent | water | 1 ml | O | H2O
product | (1RS,2SR)-2-amino-3-[4-(1,1-difluoroethyl)phenyl]-1-(4-fluorophenyl)propan-1-ol | NC(C(O)C1=CC=C(C=C1)F)CC1=CC=C(C=C1)C(C)(F)F | C17H18F3NO
